US08207373B2
Stage 1: (4-bromo-phenyl)-(2-methyl-6-nitro-phenyl)-amine
The product (2.44 g) is obtained according to the method of stage 1 of Example 4, by using 1.8 g of 2-fluoro-3-methyl-nitrobenzene and 3 g of 4-bromo-aniline in the presence of 2.09 g of potassium tert-butanolate in 20 mL of DMSO.

reactant | 2-fluoro-3-methyl-nitrobenzene | 1.8 g | FC1=C(C=CC=C1C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-bromo-aniline | 3 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | potassium tert-butanolate | 2.09 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (4-bromo-phenyl)-(2-methyl-6-nitro-phenyl)-amine | BrC1=CC=C(C=C1)NC1=C(C=CC=C1[N+](=O)[O-])C | C13H11BrN2O2
